US07326732B2
(i) 5-Adamantan-1-yl-furan-2-carboxylic acid methyl ester
Furan-2-carboxylic acid methyl ester (500 mg, 3.97 mmol) and 1-bromo-adamantane (853 mg, 3.97 mmol) were dissolved in ortho-dichlorobenzene (6 ml) and cooled to 0° C. before adding AlCl3 (1.06 g, 7.94 mmol) as a solid. The reaction mixture was allowed to warm up to room temperature, stirred for 4 h, then heated to 40° C. for 2 h and left standing at room temperature overnight. The reaction mixture was cooled to 0° C. and quenched with H2O (10 ml). The organic layer was separated and the aqueous layer was extracted with DCM (3×20 ml). The combined organic layers were dried (MgSO4), filtered and the DCM removed in vacuo. The ortho-dichlorobenzene solution was loaded to a silica-gel column and flushed with heptane (100 ml). The title compound was then eluted using a stepped gradient of 0-10% EtOAc in heptane.

reactant | Furan-2-carboxylic acid methyl ester | 3.97 mmol, 500 mg | COC(=O)C=1OC=CC1 | C6H6O3
reactant | 1-bromo-adamantane | 3.97 mmol, 853 mg | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | AlCl3 | 7.94 mmol, 1.06 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | ortho-dichlorobenzene | 6 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-Adamantan-1-yl-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)C12CC3CC(CC(C1)C3)C2 | C16H20O3
